US04141899
5-Guanyl-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine (386/1289)
A solution of 1.23 g of 4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine and 0.9 g of S-methyl-isothiourea in 15 ml of acetonitrile is refluxed for 8 h. After evaporation to dryness, the residue is treated with one equivalent of ethanolic hydrogen chloride. After cooling, 1.4 g of 5-guanyl-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine monohydrochloride, m.p. 310°, are collected.

reactant | 4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine | 1.23 g | N1C=NC=2CNCCC21 | C6H9N3
reactant | S-methyl-isothiourea | 0.9 g | CSC(N)=N | C2H6N2S
reactant | hydrogen chloride | one equivalent | Cl | ClH
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 5-Guanyl-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine | C(N)(=N)N1CC2=C(CC1)NC=N2 | C7H11N5
